Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M with a PMH of atrial fibrillation on Coumadin (not 
checking INR's), COPD, OSA, CHF, and RA, who presents with 
throat pain. He had been on Keflex for presumed bilateral ___ 
cellulitis, and was later started on Bactrim. Several days after 
starting the Bactrim, he noted jaw pain and throat pain. He was 
concerned and called his PCP, who recommended he go to the ED. 
He has noticed that his voice sounds a little different to him. 
He denies dyspnea worse than baseline, wheezing, or chest pain. 
He denies rash. He has no known drug allergies, and has never 
had anything like this before.

At baseline he has dyspnea with exertion, including with very 
mild activities such as washing dishes. He also has baseline 
orthopnea. He doesn't go to doctor frequently, doesn't check INR 
regularly, and has not been taking respiratory meds such as 
inhalers lately.

Given Pepcid, solumedrol, Benadryl, racemic epi at OSH prior to 
transfer.

In the ED, VS: 97.9, HR 89, 136/89, RR 11, on room air.
Notable labs ___: WBC 11.6 , 94% N's, INR 5.8, Cr 1.4.
Imaging: OSH CT Neck with possible glottis or subglottic edema. 
Significant narrowing of the airway at level of vocal cords. 
Consults: ENT, who said airway was fine.

On arrival to the FICU, pt is comfortable w/o complaint. Throat 
pain is "1000% better." No dyspnea.

 
Past Medical History:
Atrial fibrillation (on Coumadin, not checking INR's)
COPD
OSA
CHF
RA on MTX, Prednisone

 
Social History:
___
Family History:
Heart problems in father and mother

 
Physical Exam:
DISCHARGE PHYSICAL EXAM
Vitals: 97.5, 106=77, 103, 18, 97% on RA
GENERAL: A+Ox3, NAD, sitting upright in chair, obese
HEENT: Oopharynx without edema or erythema, sclera anicteric
NECK: Obese/thick neck, no adenopathy 
LUNGS: CTA bilaterally with no wheezes or crackles
CV: Irregularly irregular, no murmur
ABD: Obese, nontender, nondistended, +BS
EXT: 2+ pitting edema to knees bilaterally, venous stasis 
changes
present bilaterally with erythema and some serous drainage but 
no
warmth
 
Pertinent Results:
ADMISSION LABS
___ 09:20PM BLOOD WBC-11.6* RBC-3.95* Hgb-12.5* Hct-38.1* 
MCV-97 MCH-31.6 MCHC-32.8 RDW-18.4* RDWSD-63.3* Plt ___
___ 09:20PM BLOOD Neuts-94.2* Lymphs-4.6* Monos-0.4* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-10.90* AbsLymp-0.53* 
AbsMono-0.05* AbsEos-0.00* AbsBaso-0.02
___ 09:20PM BLOOD ___ PTT-40.9* ___
___ 09:20PM BLOOD Glucose-180* UreaN-27* Creat-1.4* Na-138 
K-5.0 Cl-101 HCO3-24 AnGap-18

DISCHARGE AND INTERMITTENT LABS
___ 08:15AM BLOOD WBC-18.8* RBC-4.18* Hgb-13.2* Hct-41.0 
MCV-98 MCH-31.6 MCHC-32.2 RDW-18.5* RDWSD-65.5* Plt ___
___ 08:15AM BLOOD Glucose-220* UreaN-36* Creat-1.3* Na-136 
K-4.5 Cl-99 HCO3-25 AnGap-17
___ 04:30AM BLOOD ALT-52* AST-42* AlkPhos-75 TotBili-0.5

IMAGING AND DIAGNOSTICS
CXR ___: 
IMPRESSION:  
No evidence of congestive heart failure.  Widening of the 
superior mediastinum may relate to mediastinal lipomatosis. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with COPD, CHF, OSA, and A-Fib 
on coumadin who presented as a transfer for dyspnea and throat 
pain concerning for anaphylaxis to Bactrim.

# Allergic reaction / throat pain:
Patient initially presented to OSH with symptoms of sore throat 
and jaw/throat swelling. He was thought to have an allergic 
reaction to his recent Bactrim use, so was given steroids and 
antihistamines, and epinephrine, with improvement in his 
symptoms. By the time he was transferred to ___ he reported 
feeling near baseline. Most likely allergic reaction to Bactrim, 
based on his description of events appears most consistent with 
laryngeal edema. Some concern for CT neck at OSH was concerning 
for airway narrowing, but he was evaluated by ENT at ___ who 
said his airway was okay, though this was after receiving 
steroids, antihistamine and epi at OSH. Patient also takes 
lisinopril, and it is difficult to rule out angioedema given 
that symptoms were already improved by the time he arrived at 
___. Given this ambiguity, he was switched to losartan rather 
than lisinopril, which at least would dramatically reduce the 
risk of angioedema in the future. He was instructed to resume 
his home dose of prednisone upon discharge.

# A-Fib / supratherapeutic INR: 
Patient takes wararin for atrial fibrillation, however he does 
not regularly check his INR. This mostly is because he has 
neglected his health since the recent death of his wife, who he 
says took care of him. His INR was 5.7 at the time of discharge. 
He had no evidence of bleeding at any time throughout the 
hospitalization. ___ was arranged to see the patient at home for 
INR checks and to help him with medication. 

# ___ Rash / venous stasis: 
Patient has bilateral ___ rash which has been treated with ABx, 
and while it could be cellulitis, it appears to be more likely 
venous stasis dermatitis. It may have been infected at some 
point and simply improved at this time. No additional 
antibiotics were given, and he was recommended to use 
compression stockings.

# COPD: 
Patient has not been compliant with albuterol inhaler lately, 
which could be contributing to baseline dyspnea. However, his 
presenting complaint was not related to his COPD. He was able to 
ambulate without significant dyspnea and reported feeling at his 
baseline.

# Restless leg syndrome
Continued Ropinirole 2mg BID
  
TRANSITIONAL ISSUES: 
[ ] Folate was started due to chronic methotrexate use
[ ] Patient's allergy list should include Bactrim and lisinopril 
(though Bactrim more likely culprit)
[ ] Uptitrate losartan as appropriate. Started at low dose.
[ ] Encourage patient to use compression stockings for bilateral 
venous stasis dermatitis
[ ]  Pt requires close f/u for INR. If he is unable to reliably 
have INR checked, consider discontinuing anticoagulation.
presentation).  Warfarin held in hospital.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methotrexate 20 mg PO 1X/WEEK (___) 
2. Bumetanide 2 mg PO DAILY 
3. PredniSONE 5 mg PO DAILY 
4. Ropinirole 2 mg PO BID 
5. Warfarin 5 mg PO DAILY16 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Lisinopril 10 mg PO DAILY 
8. Nitroglycerin Patch 0.2 mg/hr TD QAM 

 
Discharge Medications:
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Ropinirole 2 mg PO BID 
3. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*11
4. Bumetanide 2 mg PO DAILY 
5. Methotrexate 20 mg PO 1X/WEEK (___) 
6. Nitroglycerin Patch 0.2 mg/hr TD QAM 
7. Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*3
8. PredniSONE 20 mg PO DAILY Duration: 1 Dose 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time 
Take 20mg on ___, then 10mg on ___, then your normal dose of 
5mg daily thereafter 
This is dose # 1 of 2 tapered doses
RX *prednisone 10 mg 1 tablet(s) by mouth DAILY Disp #*3 Tablet 
Refills:*0
9. PredniSONE 10 mg PO DAILY Duration: 1 Dose 
Start: After 20 mg DAILY tapered dose 
Take 20mg on ___, then 10mg on ___, then your normal dose of 
5mg daily thereafter 
This is dose # 2 of 2 tapered doses
10. PredniSONE 5 mg PO DAILY 
Start: After last tapered dose completes 
Take 20mg on ___, then 10mg on ___, then your normal dose of 
5mg daily thereafter 
This is the maintenance dose to follow the last tapered dose

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Allergic drug reaction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you. You were admitted to the 
hospital with an allergic reaction. This reaction was most 
likely due to Bactrim (sulfamethoxazole/trimethoprim). However, 
it also may have been due to Lisinopril. Therefore you should 
avoid both of those medications in the future, or any similar 
medications. We have switched your lisinopril to a medication 
called losartan that is similar. 

You will also need to take 2 more days of a prednisone taper. 
You will take 20mg tomorrow, then 10mg the following day, and 
then resume your home dose of 5mg daily.

We also found that your INR was elevated to 6.0. This is likely 
because you were taking warfarin without having your INR checked 
frequently to adjust your warfarin dose. Please do not do this 
again in the future, as it is very dangerous, and you could die. 
Your new ___ (visiting nurse) will check your INR this ___ 
to make sure it is continuing to go down, and to determine when 
you should start taking warfarin again.

We have started you on a medicine called folate. This is an 
important vitamin for you to take since you are on methotrexate. 
It prevents many side effects of this medications.

If you have trouble breathing or feel like your throat is 
closing again, please call ___ and return to the hospital.

Sincerely,
Your ___ Team
 
Followup Instructions:
___